US05476944
Methyl trans-[[2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexyl]thio]acetate (4)
Methyl thioglycolate (2.65 g, 0.025 moles) was added by syringe to a solution of trans-2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexanol (5.0 g., 0,025 moles) in methylene chloride (10 ml). After stirring the reaction mixture for 15 minutes, trifluoroacetic acid (10 ml) was added by syringe, and the reaction mixture was stirred for 20 hours at room temperature. The reaction mixture was poured into cold water (100 ml). After stirring for 30 minutes, the mixture was extracted with ethyl acetate. The aqueous layer was washed with ethyl acetate (50 ml). The combined ethyl acetate extracts were washed twice with 75 ml of water, dried over sodium sulfate, filtered and concentrated to give the crude product as an oil. The title compound was purified by silica gel chromatography and dried in a vacuum oven at 60° C. for 3 hours. The structure assignment was supported by NMR, infrared spectroscopy, and elemental analysis.

reactant | Methyl thioglycolate | 0.025 moles, 2.65 g | C(CS)(=O)OC | C3H6O2S
reactant | trans-2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexanol | 0,025 moles, 5.0 g | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)S[C@H]1[C@@H](CCCC1)O | C20H32OS
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Methyl trans-[[2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexyl]thio]acetate | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)S[C@H]1[C@@H](CCCC1)SCC(=O)OC | C23H36O2S2
